US07943622B2
Step 2. Synthesis of N-(6-fluorobenzo[d]thiazol-2-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(6-fluorobenzo[d]thiazol-2-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (122 mg, 0.203 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 83.9 mg (90%) of the title compound as a white solid. LC-MS: RT=4.61 min, [M+H]+=388.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(6-fluorobenzo[d]thiazol-2-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.203 mmol, 122 mg | OC(=O)C(F)(F)F.FC1=CC2=C(N=C(S2)NC(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2)C=C1
solvent | MeOH | 1 mL | CO | CH4O
product | N-(6-fluorobenzo[d]thiazol-2-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride | 83.9 mg, 90% | Cl.Cl.FC1=CC2=C(N=C(S2)NC(=O)N2C(CNCC2)COC=2C=NC=CC2)C=C1 | InChI=1S/C18H18FN5O2S.2ClH/c19-12-3-4-15-16(8-12)27-17(22-15)23-18(25)24-7-6-21-9-13(24)11-26-14-2-1-5-20-10-14;;/h1-5,8,10,13,21H,6-7,9,11H2,(H,22,23,25);2*1H
